US04242507
Tetrazole-1-acetic acid (0.64 g), benzyl alcohol (0.65 g) and pyridine (0.80 ml) are dissolved in dry cyanomethane (10 ml) and thereto is added 1-(p-chlorobenzenesulfonyloxy)-6-chloro-1,2,3-benzotriazole (1.72 g) under ice-cooling. After allowing to stand overnight, to the mixture are added water and ethyl acetate. The ethyl acetate layer is washed, dried and concentrated. The precipitated crystals are washed well with ether-petroleum ether to give benzyl tetrazole-1-acetate (815 mg), melting point: 69°-72° C.

reactant | Tetrazole-1-acetic acid | 0.64 g | N1(N=NN=C1)CC(=O)O | C3H4N4O2
reactant | benzyl alcohol | 0.65 g | C(C1=CC=CC=C1)O | C7H8O
reactant | pyridine | 0.80 ml | N1=CC=CC=C1 | C5H5N
reactant | 1-(p-chlorobenzenesulfonyloxy)-6-chloro-1,2,3-benzotriazole | 1.72 g | ClC1=CC=C(C=C1)S(=O)(=O)ON1N=NC2=C1C=C(C=C2)Cl | C12H7Cl2N3O3S
solvent | cyanomethane | 10 ml | C(#N)C | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | benzyl tetrazole-1-acetate | 815 mg | N1(N=NN=C1)CC(=O)OCC1=CC=CC=C1 | C10H10N4O2
